US07964739B2
2-Bromobenzyl bromide (25 g, 0.100 mol) and toluene (25 ml) were heated to 100° C. Next triethyl phosphite (19.3 ml, 0.108 mol) was added over 30 minutes, while the temperature was kept below 116° C. The mixture was stirred for 4 hours at 115° C., while the toluene was distilled. The mixture was cooled to room temperature and diluted with tetrahydrofuran (THF; 16.5 ml). KOtBu (30.5 grams, 0.250 mol) was dissolved in THF (176 ml) and cooled to −10° C. The (2-bromobenzyl)-phosphonic acid diethyl ester solution was added at −5° C. Next chlorosalicylaldehyde (17.2 g, 0.110 mol) in THF (62 ml) was added at −10° C. The mixture was stirred for one hour at −5° C. to 0° C. When the reaction was complete acetic anhydride (24.5 ml, 0.36 mol) was added and the temperature was allowed to rise to 20° C. The reaction was stirred for another 15 min and then cooled to 5° C. The pH of the reaction mixture was adjusted to 5 by the addition of 200 ml 1N HCl. The organic layer was separated and washed with 200 ml saturated NaCl solution. The organic layer was evaporated under reduced pressure at 50° C., yielding (E)-2-(2-bromostyryl)-4-chlorophenyl acetate in 25.8 grams, (73%).

reactant | 2-Bromobenzyl bromide | 0.100 mol, 25 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | triethyl phosphite | 0.108 mol, 19.3 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | KOtBu | 0.250 mol, 30.5 grams | CC(C)(C)[O-].[K+]
reactant | (2-bromobenzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)Br | C11H16BrO3P
reactant | chlorosalicylaldehyde | 0.110 mol, 17.2 g | ClOC=1C(C=O)=CC=CC1 | C7H5ClO2
reactant | acetic anhydride | 0.36 mol, 24.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 1N, 200 ml | Cl | ClH
solvent | THF | 176 ml | O1CCCC1 | C4H8O
solvent | THF | 62 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-(2-bromostyryl)-4-chlorophenyl acetate | C(C)(=O)OC1=C(C=C(C=C1)Cl)\C=C\C1=C(C=CC=C1)Br | C16H12BrClO2
